US07732626B2
[(3S)-6-({2′,6′-diethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methoxy)-2,3-dihydro-1-benzofuran-3-yl]acetic acid
To a solution of methyl[(3S)-6-({2′,6′-diethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methoxy)-2,3-dihydro-1-benzofuran-3-yl]acetate (0.521 g, 0.919 mmol) in a mixed solvent of methanol (2 mL) and tetrahydrofuran (4 mL) was added 2 M aqueous sodium hydroxide solution (1 mL), and the mixture was stirred at 50° C. for 1.5 hr. The reaction mixture was diluted with water, acidified with 10% aqueous citric acid solution, and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The precipitated crystals were recrystallized from heptane-ethyl acetate to give the title compound (0.413 g, yield 81%) as colorless crystals.

reactant | methyl[(3S)-6-({2′,6′-diethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methoxy)-2,3-dihydro-1-benzofuran-3-yl]acetate | 0.919 mmol, 0.521 g | COC(C[C@@H]1COC2=C1C=CC(=C2)OCC=2C=C(C=CC2)C2=C(C=C(C=C2CC)OCCCS(=O)(=O)C)CC)=O | C32H38O7S
reactant | methanol | 2 mL | CO | CH4O
reactant | sodium hydroxide | 2 M, 1 mL | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | O | H2O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | [(3S)-6-({2′,6′-diethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methoxy)-2,3-dihydro-1-benzofuran-3-yl]acetic acid | 0.413 g, yield 81% | C(C)C1=C(C(=CC(=C1)OCCCS(=O)(=O)C)CC)C1=CC(=CC=C1)COC1=CC2=C([C@@H](CO2)CC(=O)O)C=C1 | C31H36O7S
